### PR TITLE
feat: add BitVec.[sshiftRight/shiftLeft]_*_distrib

### PR DESCRIPTION
**Pull request by tobiasgrosser**
After having added already `BitVec.ushiftRight_*_distrib`in https://github.com/leanprover/lean4/pull/4667 for ushiftRight, this PR now completes the `*_distrib` theorems for shift.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -651,6 +660,24 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
...
+    (x &&& y) <<< n = (x <<< n) &&& (y <<< n) := by
+  ext i
+  simp
+  by_cases h : (i < n) <;> simp [h]
+
+theorem shiftLeft_or_distrib (x y : BitVec w) (n : Nat) :
+    (x ||| y) <<< n = (x <<< n) ||| (y <<< n) := by
+  ext i
+  simp
+  by_cases h : (i < n) <;> simp [h]
```
Comment (AtticusKuhn) [inline src/Init/Data/BitVec/Lemmas.lean:679]:
```suggestion
  by_cases h : i < n <;> simp [h]
```

A minort stylistic nitpick, but are these parentheses nessecary? Such parentheses are not present on line 565, but are present on line 667 and 673. It's probably best to be consistent.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -822,6 +849,30 @@ theorem sshiftRight_eq_of_msb_true {x : BitVec w} {s : Nat} (h : x.msb = true) :
...
+  by_cases w ≤ i <;>
+  simp [*]
+
+theorem sshiftRight_and_distrib (x y : BitVec w) (n : Nat) :
+    (x &&& y).sshiftRight n = (x.sshiftRight n) &&& (y.sshiftRight n) := by
+  ext i
+  simp
+  split <;>
+  by_cases w ≤ i <;>
+  simp [*]
```
Comment (AtticusKuhn) [inline src/Init/Data/BitVec/Lemmas.lean:866]:
```suggestion
  split 
    <;> by_cases w ≤ i 
    <;> simp [*]
```

I'm not sure what the style-guide is for the "<;>" operator, but at least in 
https://github.com/leanprover/lean4/blob/7776852d227d4269e34fe30eb51ba0adef90838e/src/Init/Data/BitVec/Lemmas.lean#L683
it appears that the new line is indented when "<;>" is used.


The same idea applies on lines 871-874. This is up to you, as I haven't seen this rule documented officially.

**Review by AtticusKuhn — APPROVED** [review]
Looks good to me.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Resolved.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Right. I now follow this style. Thank you.

**Review by AnotherAlexHere — APPROVED** [review]
Looks good!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -651,6 +660,27 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
   cases h₁ : decide (i < m) <;> cases h₂ : decide (n ≤ i) <;> cases h₃ : decide (i < n)
   all_goals { simp_all <;> omega }
 
+theorem shiftLeft_xor_distrib (x y : BitVec w) (n : Nat) :
+    (x ^^^ y) <<< n = (x <<< n) ^^^ (y <<< n) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:664]: The naming conventions are vague, but I'm sure I've seen infix-ness of operators being reflected in the naming scheme, which would make this `xor_shiftLeft_distrib`.

Furthermore, I don't think there is a big precedent for `_distrib` lemmas, judging from a search through the docs.
See, e.g, [`Nat.add_mul`](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Basic.html#Nat.add_mul).

Following that, we could call this `xor_shiftLeft`, which matches the preference for shorter names.

(Note, this is just a suggestion following my interpretation of an incomplete naming convention, feel free to go with another name if you find it more fitting, and can somewhat justify so)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -651,6 +660,27 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
...
+  ext i
+  simp
+  by_cases h : i < n
+    <;> simp [h]
+
+theorem shiftLeft_and_distrib (x y : BitVec w) (n : Nat) :
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:670]:
```suggestion
theorem and_shiftLeft (x y : BitVec w) (n : Nat) :
```
See previous comment

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -651,6 +660,27 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
...
+    (x &&& y) <<< n = (x <<< n) &&& (y <<< n) := by
+  ext i
+  simp
+  by_cases h : i < n
+    <;> simp [h]
+
+theorem shiftLeft_or_distrib (x y : BitVec w) (n : Nat) :
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:677]:
```suggestion
theorem or_shiftLeft (x y : BitVec w) (n : Nat) :
```
See previous comment

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -651,6 +660,27 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
   cases h₁ : decide (i < m) <;> cases h₂ : decide (n ≤ i) <;> cases h₃ : decide (i < n)
   all_goals { simp_all <;> omega }
 
+theorem shiftLeft_xor_distrib (x y : BitVec w) (n : Nat) :
+    (x ^^^ y) <<< n = (x <<< n) ^^^ (y <<< n) := by
+  ext i
+  simp
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:666]: It's a bit of an edge-case, but it might be good to edge on the safe side and squeeze this simp (idem ditto in the next two proofs)

**Review by alexkeizer — APPROVED** [review]
I've left some comments, but I'd say they fall in various shades of grey areas, so feel free to ignore those you disagree with

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean:677]: Similarly in the `sshiftRight` theorems further down

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:664]: We already used this name in https://github.com/leanprover/lean4/pull/4667, and there is precedence in `Nat.left_distrib`, `Bool.and_or_distrib_left`, ...

I would prefer to leave it like this. Is that OK?

Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean:664]: It seems my search for precedent was too cursory. It's for sure best to be consistent with #4667 :+1:

**Review by alexkeizer — APPROVED** [review]

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:664]: Cool.

**Comment by tobiasgrosser** [comment]
@semorrison, this PR should now be ready to review/merge.
